US06727264B1
METHYL 3-{[(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)AMINO]SULFONYL}-2-THIOPHENECARBOXYLATE:
Prepared Procedure Q1 and Scheme AC using methyl 3-(chlorosulfonyl)-2-thiophenecarboxylate and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide: Anal. Calcd for C24H33N3O5S.HCl: C, 6.00; H, 5.30; N, 7.72. Found: C, 52.9; H, 6.04; N, 7.59; ESMS m/e: 508.2 (M+H)+.

reactant | methyl 3-(chlorosulfonyl)-2-thiophenecarboxylate | ClS(=O)(=O)C1=C(SC=C1)C(=O)OC | C6H5ClO4S2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | METHYL 3-{[(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)AMINO]SULFONYL}-2-THIOPHENECARBOXYLATE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CCCNS(=O)(=O)C1=C(SC=C1)C(=O)OC | C24H33N3O5S2
